US07488832B2
Diethylamine (55 mmol, 5.69 mL) and t-Butanol (55 mmol, 5.26 mL) are added to a stirred solution of Zinc Chloride (74 mmol, 10 g) in anhydrous toluene (100 mL). After two hours of stirring at room temperature, Zinc Chloride is completely dissolved. 1-(4-Fluorophenyl)-ethanone (40 mmol, 4.90 mL) is added, followed by the addition of bromoacetophenone (37 mmol, 7.4 g). The reaction is allowed to stir at room temperature for 3 days. A 5% aqueous solution of sulfuric acid (75 mL) is added and the organic phase is separated from the aqueous phase. The aqueous phase is extracted with Ethyl Acetate (50 mL) and the two organic phases are combined. The organic phase is dried with Sodium Sulfate, filtered and concentrated to give 1-(4-fluoro-phenyl)-4-phenyl-butane-1,4-dione (5.2 g) confirmed by LCMS, as a white solid.

reactant | Diethylamine | 55 mmol, 5.69 mL | C(C)NCC | C4H11N
reactant | t-Butanol | 55 mmol, 5.26 mL | C(C)(C)(C)O | C4H10O
reactant | 1-(4-Fluorophenyl)-ethanone | 40 mmol, 4.90 mL | FC1=CC=C(C=C1)C(C)=O | C8H7FO
reactant | bromoacetophenone | 37 mmol, 7.4 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | sulfuric acid | 75 mL | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Zinc Chloride | 74 mmol, 10 g | [Cl-].[Zn+2].[Cl-]
product | 1-(4-fluoro-phenyl)-4-phenyl-butane-1,4-dione | 5.2 g | FC1=CC=C(C=C1)C(CCC(=O)C1=CC=CC=C1)=O | C16H13FO2
